US06049006
N-[2-[(Aminothioxomethyl)hydrazono]-2-phenylethyl]acetamide
Thiosemicarbazide (1.98 g, 20 mmol) was added to a solution of N-(2-oxo-2-phenyl-ethyl)-acetamide (3.84 g, 20 mmol, prepared in the previous step, in 70 ml of methanol plus 5.4 ml of 1N HCl plus 5.0 ml of water and the reaction stirred at room temperature overnight. The solid formed was collected by filtration and dried to give 3.9 g (78%) of the title compound as a white solid, mp 208-211° C.

reactant | Thiosemicarbazide | 20 mmol, 1.98 g | NNC(=S)N | CH5N3S
reactant | N-(2-oxo-2-phenyl-ethyl)-acetamide | O=C(CNC(C)=O)C1=CC=CC=C1 | C10H11NO2
reactant | HCl | 1N, 5.4 ml | Cl | ClH
reactant | water | 5.0 ml | O | H2O
solvent | methanol | 70 ml | CO | CH4O
product | N-[2-[(Aminothioxomethyl)hydrazono]-2-phenylethyl]acetamide | 3.9 g, 78% | NC(=S)NN=C(CNC(C)=O)C1=CC=CC=C1 | C11H14N4OS
